### PR TITLE
feat(NumberTheory/Mertens): abstract theory of Mertens weights

### PR DESCRIPTION
**Pull request by teorth**
This is the first of a three-PR stack splitting the Mertens theorems
development (#41394) into pieces under 500 LoC each.

It introduces `Mathlib/NumberTheory/Mertens/Weight.lean`: the abstract theory
of *Mertens weights* — the `Mertens.Weight` structure and the basic estimates
attached to it (the `E₁`/`E₂` error bounds, `sum_sub_log_*`, `M_bounds`,
`sum_div_log_*`, …). No concrete weight is constructed here; this will be done in #44062.

---

The code was human-generated, but reviewed by AI.

- [x] depends on: #41120 
- [x] depends on: #43471

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by loefflerd** [comment]
@amellendijk, @xroblot, @MichaelStollBayreuth : would any of you be prepared to take on reviewing this?

File: Mathlib/NumberTheory/Mertens/Weight.lean [hunk 1]
```diff
@@ -0,0 +1,492 @@
...
+
+private lemma integ_div_mul_log_sq (C : ℝ) (hx : 2 ≤ x) :
+    ∫ t in .Ioi x, (t⁻¹ / (log t)^2) * C = C / log x := by
+  rw [MeasureTheory.integral_mul_const, integral_inv_div_log_sq_Ioi (by linarith)]
+  field
+
+/-- A weight `f` is a bundled function `f : ℕ → ℝ` for which the quantity
+`∑ n ∈ Icc 0 ⌊x⌋₊, f n - log x` is bounded above and below for `x ≥ 1`, which vanishes
+at `0` and `1`, and does not grow faster than `log n / n`.
+-/
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Mertens/Weight.lean]: This is not quite faithful to the formalisation: the `Weight` structure contains extra data beyond the function `f`, namly specific choices of the constants `C₀`, `lowerBound`, and `upperBound` (not just the propositions that such constants exist). The same `f` with different constants would be considered a different `Weight`. Please update the docstring to reflect this.

File: Mathlib/NumberTheory/Mertens/Weight.lean [hunk 2]
```diff
@@ -0,0 +1,492 @@
...
+  upperBound : ℝ
+  le_first' : ∀ x ≥ 1, lowerBound ≤ ∑ n ∈ Ioc 0 ⌊x⌋₊, f n - log x
+  first_le' : ∀ x ≥ 1, ∑ n ∈ Ioc 0 ⌊x⌋₊, f n - log x ≤ upperBound
+  /-- A constant for the pointwise bound on the function -/
+  C₀ : ℝ
+  f_bound (n : ℕ) : |f n| ≤ C₀ * log n / n
+
+noncomputable instance instCoefn : CoeFun Weight (fun _ ↦ ℕ → ℝ) where coe (w: Weight) := w.f
+
+namespace Weight
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Mertens/Weight.lean]: slightly more concise:

```suggestion
namespace Weight

noncomputable instance : CoeFun Weight (fun _ ↦ ℕ → ℝ) := ⟨f⟩
```

File: Mathlib/NumberTheory/Mertens/Weight.lean [hunk 3]
```diff
@@ -0,0 +1,492 @@
...
+
+open intervalIntegral
+
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Mertens/Weight.lean]: already open
```suggestion
```

File: Mathlib/NumberTheory/Mertens/Weight.lean [hunk 4]
```diff
@@ -0,0 +1,492 @@
...
+/-- A weight `f` is a bundled function `f : ℕ → ℝ` for which the quantity
+`∑ n ∈ Icc 0 ⌊x⌋₊, f n - log x` is bounded above and below for `x ≥ 1`, which vanishes
+at `0` and `1`, and does not grow faster than `log n / n`.
+-/
+structure Weight where
+  /-- The underlying function -/
+  f : ℕ → ℝ
+  map_zero' : f 0 = 0
+  map_one' : f 1 = 0
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Mertens/Weight.lean]:
```suggestion
  protected map_zero : f 0 = 0
  protected map_one : f 1 = 0
```
and then after the structure definition you can do `attribute [simp] Weight.map_zero Weight.map_one`. This saves duplication. 

(The design pattern of having a proof structure field with primed name, and then a simp lemma with the same name unprimed which just fetches the structure field, is unnecessary baggage here; it is intended to be used along with Mathlib's mechanism of typeclass-based inheritance, where you have a type Foo and a typeclass FooClass for "types which are a specific kind of Foo". I don't think this is needed for Mertens.Weight.)

File: Mathlib/NumberTheory/Mertens/Weight.lean [hunk 5]
```diff
@@ -0,0 +1,492 @@
...
+variable (f : Weight) (x : ℝ) (n N : ℕ) {t : ℝ}
+
+@[simp] lemma map_zero : f 0 = 0 := f.map_zero'
+@[simp] lemma map_one : f 1 = 0 := f.map_one'
+
+/-- The first Mertens error for a weight `f` is defined as
+`f.E₁ x = ∑ n ∈ Ioc 0 ⌊x⌋₊, f n - log x`. -/
+noncomputable def E₁ := ∑ n ∈ Ioc 0 ⌊x⌋₊, f n - log x
+
+lemma sum_eq : ∑ n ∈ Ioc 0 ⌊x⌋₊, f n = log x + f.E₁ x := by grind [E₁]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Mertens/Weight.lean]: Maybe `sum_Ioc_eq` and `sum_Icc_eq` are more informative names

File: Mathlib/NumberTheory/Mertens/Weight.lean [hunk 6]
```diff
@@ -0,0 +1,492 @@
...
+
+lemma sum_eq' : ∑ n ∈ Icc 0 ⌊x⌋₊, f n = log x + f.E₁ x := by
+  simpa [← add_sum_Ioc_eq_sum_Icc] using f.sum_eq x
+
+lemma sum_eq_nat : ∑ n ∈ Ioc 0 N, f n = log N + f.E₁ N := by simpa using f.sum_eq N
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Mertens/Weight.lean]: `sum_Ioc_nat_eq` perhaps?

File: Mathlib/NumberTheory/Mertens/Weight.lean [hunk 7]
```diff
@@ -0,0 +1,492 @@
...
+`Mathlib.NumberTheory.Mertens.Theorems`.
+-/
+
+@[expose] public section
+
+namespace Mertens
+
+open Nat hiding log log_pos
+open Finset Filter Real Chebyshev intervalIntegral Asymptotics MeasureTheory Topology
+  Measurable ContinuousOn
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Mertens/Weight.lean]: I think opening all these namespaces at once is not ideal for clarity. If you see `Measurable.aestronglyMeasurable` or `ContinuousOn.integrableOnIcc` you know what's happening; less so without the namespace prefixes.

File: Mathlib/NumberTheory/Mertens/Weight.lean [hunk 8]
```diff
@@ -0,0 +1,492 @@
...
+lemma sum_eq' : ∑ n ∈ Icc 0 ⌊x⌋₊, f n = log x + f.E₁ x := by
+  simpa [← add_sum_Ioc_eq_sum_Icc] using f.sum_eq x
+
+lemma sum_eq_nat : ∑ n ∈ Ioc 0 N, f n = log N + f.E₁ N := by simpa using f.sum_eq N
+
+lemma le_first (ht : t ≥ 1) : f.lowerBound ≤ f.E₁ t := f.le_first' t ht
+
+lemma first_le (ht : t ≥ 1) : f.E₁ t ≤ f.upperBound := f.first_le' t ht
+
+lemma apply_bound : |f n| ≤ f.C₀ * log n / n := f.f_bound n
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Mertens/Weight.lean]: This is just a verbatim copy of the `f_bound` structure field, so it's not really doing anything.

File: Mathlib/NumberTheory/Mertens/Weight.lean [hunk 9]
```diff
@@ -0,0 +1,492 @@
...
+
+lemma hi_nonneg : 0 ≤ f.upperBound := by
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Mertens/Weight.lean]: Were `hi` and `lo` previous naming iterations perhaps?

**Comment by xroblot** [comment]
@loefflerd I'm afraid this is mathematically a topic I don't know well enough to be able to review this PR.
